US07834021B2
N-[2-({(3R)-1-[cis-2-(Benzoylamino)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
To a stirred solution of N-(2-{[(3R)-1-(cis-2-aminocyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (0.48 g, 0.6 mmol) and benzoic acid (0.088 g, 0.72 mmol) in CH2Cl2 (5 mL) was added Et3N (0.25 mL, 1.8 mmol) followed by EDC (0.138 g, 0.72 mmol) and HOBt (0.097 g, 0.72 mmol). The mixture was stirred at room temperature overnight. Then the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3 and brine. The organic layer was dried (MgSO4), concentrated and flash chromatographed (EtOAc to 10% MeOH/EtOAc) to give 0.13 g of the title compound. MS (EI) calcd: (M+H)+=517.2; found: 517.3.

reactant | N-(2-{[(3R)-1-(cis-2-aminocyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 0.6 mmol, 0.48 g | N[C@@H]1[C@@H](CCCC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H27F3N4O2
reactant | benzoic acid | 0.72 mmol, 0.088 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | Et3N | 1.8 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | EDC | 0.72 mmol, 0.138 g
reactant | HOBt | 0.72 mmol, 0.097 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-({(3R)-1-[cis-2-(Benzoylamino)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.13 g | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@@H](CCCC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H31F3N4O3
